US06608203B2
6-Methoxy-1-thiophen-2-yl-1,2,3,4-tetrahydroisoquinoline
Sodium borohydride (0.916 g, 24.2 mmol) was added in small portions to a solution of 6-methoxy-1-thiophen-2-yl-3,4-dihydroisoquinoline (1.470 g, 6.04 mmol) in MeOH (50 ml) at 0° C. The reaction mixture was stirred for 30 min, warmed to rt and stirred at rt for 21 hr, then quenched by the dropwise addition of H2O (10 ml). Excess MeOH was removed by evaporation and the resulting aqueous solution was extracted with CHCl3 (4×10 ml). The combined extracts were dried over MgSO4 and concentrated in vacuo to give 1.316 g (89% yield) of yellow solid.

reactant | Sodium borohydride | 24.2 mmol, 0.916 g | [BH4-].[Na+]
reactant | 6-methoxy-1-thiophen-2-yl-3,4-dihydroisoquinoline | 6.04 mmol, 1.470 g | COC=1C=C2CCN=C(C2=CC1)C=1SC=CC1 | C14H13NOS
solvent | MeOH | 50 ml | CO | CH4O
product | 6-Methoxy-1-thiophen-2-yl-1,2,3,4-tetrahydroisoquinoline | 1.316 g, 89% yield | COC=1C=C2CCNC(C2=CC1)C=1SC=CC1 | C14H15NOS
